US06469021B1
Preparation of 6-(2,5-dichlorobenzyl)-1-methyl-1,6-dihydro-3H-furo[3′,4′:5,6]pyrido[3,4-b]indol-3-one
6-(2,5-Dichlorobenzyl)-1-methyl-1,6-dihydro-3H-furo[3′,4′:5,6]pyrido[3,4-b]indol-3-one was prepared using Method A from 1-methyl-1,6-dihydro-3H-furo[3′,4′:5,6]pyrido[3,4-b]indol-3-one (9 mg, 0.038 mmol), NaH (0.046 mmol, 2 mg of 60 wt. % suspension in mineral oil) and 2,5-dichlorobenzyl chloride (9 mg, 0.046 mmol) in DMF (1 mL). Purification of the crude product by preparative thin layer chromatography with hexane/ether (2:1) as eluent furnished the desired product (5 mg, 33% yield) as a yellow solid. 1H NMR (CDCl3) δ8.93 (s, 1H), 8.09 (d, J=8.0 Hz, 1H), 7.65 (t, J=7.8 Hz, 1H), 7.37-7.46 (m, 3H), 7.16 (d,J=2.2 Hz, 1H), 6.42 (d,J=2.2 Hz, 1H), 6.05 (q,J=6.6 Hz, 1H), 5.70 (s, 2H), 1.92 (d,J=6.6 Hz, 3H); MS (APCI; (M+H)+) m/z 397.

reactant | 1-methyl-1,6-dihydro-3H-furo[3′,4′:5,6]pyrido[3,4-b]indol-3-one | 0.038 mmol, 9 mg | CC1OC(C2=C1C1=C(NC=3C=CC=CC13)C=N2)=O | C14H10N2O2
reactant | NaH | 0.046 mmol, 2 mg | [H-].[Na+]
reactant | 2,5-dichlorobenzyl chloride | 0.046 mmol, 9 mg | ClC1=C(CCl)C=C(C=C1)Cl | C7H5Cl3
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 6-(2,5-dichlorobenzyl)-1-methyl-1,6-dihydro-3H-furo[3′,4′:5,6]pyrido[3,4-b]indol-3-one | 5 mg, 33% yield | ClC1=C(CN2C3=C(C=4C=CC=CC24)C2=C(N=C3)C(OC2C)=O)C=C(C=C1)Cl | C21H14Cl2N2O2
